US07202364B2
(a)(ii) 5-Cyclopropyl-2-[2′-fluoro-4′-(4-fluorophenyl)anilino]phenylacetic Acid
A solution of N,N-dimethyl-5-cyclopropyl-2-[2′-fluoro-4′-(4-fluorophenyl)anilino]phenylacetamide (575 mg) in 10 mL of 4 N NaOH and 20 mL of EtOH is heated overnight at 80° C. After cooling, the EtOH is removed under reduced pressure and the residue is diluted with EtOAc and cold water. The mixture is cooled in an ice bath and cold 2.5 N HCl is added until the pH of the aqueous layer reaches 2. The organic phase is separated, washed with brine, dried (Na2SO4) and concentrated in vacuo to give a brown solid. The solid is purified by flash chromatography eluting with 10%, then 20%, then 30% EtOAc in hexane to give the title product, m.p. 182–183° C.

reactant | N,N-dimethyl-5-cyclopropyl-2-[2′-fluoro-4′-(4-fluorophenyl)anilino]phenylacetamide | 575 mg | CN(C(CC1=C(C=CC(=C1)C1CC1)NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)F)=O)C | C25H24F2N2O
reactant | NaOH | 4 N, 10 mL | [OH-].[Na+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-Cyclopropyl-2-[2′-fluoro-4′-(4-fluorophenyl)anilino]phenylacetic Acid | C1(CC1)C=1C=CC(=C(C1)CC(=O)O)NC1=C(C=C(C=C1)C1=CC=C(C=C1)F)F | C23H19F2NO2
